US08030322B2
Prep 38: (E)-ethyl 2-(6-chloro-2,3-dihydro-1H-inden-1-ylidene)-2-cyanoacetate (Prep38)
To a solution of 6-chloro-indan-1-one (commercially available, 16 g, 0.1 mol) in Benzene (500 ml), AcOH (160 ml) CH3COONH4 (80 g) and ethyl cyanoacetate (14.4 g, 0.13 mol) were added. The mixture was heated to 100° C. and stirred overnight with a Dean stark water trap. Then ethyl acetate was added and the mixture washed with water. The residue was first purified by FC followed by crystallization from ethanol to obtain the title compound (16.2 g, y=64.5%).

reactant | 6-chloro-indan-1-one | ClC1=CC=C2CCC(C2=C1)=O | C9H7ClO
reactant | AcOH | 160 ml, 80 g | CC(=O)O | C2H4O2
reactant | ethyl cyanoacetate | 0.13 mol, 14.4 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | water | O | H2O
solvent | Benzene | 500 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-ethyl 2-(6-chloro-2,3-dihydro-1H-inden-1-ylidene)-2-cyanoacetate | 16.2 g, 64.5% | ClC1=CC=C2CC/C(/C2=C1)=C(\C(=O)OCC)/C#N | C14H12ClNO2
